US06211234B1
A suspension of ethyl 4-benzyloxyphenyl-2,4-dioxobutanoate (35.86 g) in ethanol (300 mL) is treated with hydrazine hydrate (6 mL) and the mixture is heated at reflux for 2 hours. The reaction mixture is cooled to room temperature, filtered, and the solid washed with ethanol to give ethyl 5-(4-benzyloxyphenyl)-2H-pyrazole-3-carboxylate (25 g), m.p. 160-170° C.

reactant | ethyl 4-benzyloxyphenyl-2,4-dioxobutanoate | 35.86 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(C(=O)OCC)=O)C=O | C19H18O5
reactant | hydrazine hydrate | 6 mL | O.NN
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | ethyl 5-(4-benzyloxyphenyl)-2H-pyrazole-3-carboxylate | 25 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=C(NN1)C(=O)OCC | C19H18N2O3
